US07534797B2
(1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-2-dimethylamino-ethanone)
1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-2-chloro-ethanone (77.00 mg, 0.15 mmol) was transferred to a pressure reaction vessel and dissolved in 3.15 mL of 2M dimethylamine solution in THF. The reaction was heated at 80° C. overnight. The crude product was then condensed and purified by a 5 g Jones silica gel (dry loaded with silica gel; eluted with 100% CH2Cl2→2% (7N NH3) in MeOH/CH2Cl2→5% (7N NH3) in MeOH/CH2Cl2) and afforded the desired product; 1H NMR (400 MHz, CHLOROFORM-d) δ 8.41 (1H, d, J=0.80), 8.28 (1H, d, J=8.23), 8.19 (2H, dd, J=2.04, J=1.55), 7.93 (3H, m), 7.53 (3H, dd, J=1.70, J=1.70), 7.53 (3H, m), 7.23 (1H, d, J=5.08), 7.15 (1H, d, 5.06), 5.52 (2H, m), 4.63 (1H, d, J=14.08), 4.04 (1H, d, J=11.88), 2.43 (2H, q), 2.97 (4H, d, J=6.08), 2.60 (1H, t), 2.43 (6H, s), 2.29 (1H, m), 1.86 (2H, d, J=12.96), 1.30 (2H, m); MS (ES+): m/z 520.11 (5) [MH+]; HPLC: tR=1.73 min (OpenLynx, polar—5 min).

reactant | 1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-2-chloro-ethanone | 0.15 mmol, 77.00 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)CC2CCN(CC2)C(CCl)=O | C29H27ClN6O
reactant | dimethylamine | 2M, 3.15 mL | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-2-dimethylamino-ethanone | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)CC2CCN(CC2)C(CN(C)C)=O | C31H33N7O
